US07276518B2
2-(4-Dimethylamino-4-phenyl-cyclohexylamino)-3-(6-fluoro-1H-indol-3-yl)-propionic acid methyl ester dihydrochloride, nonpolar diastereomer
4-Dimethylamino-4-phenylcyclohexanone (877 mg), sodium sulfate (2 g) and glacial acetic acid (230 μl, 4 mmol.) were added under argon to rac-6-fluorotryptophan methyl ester (952 mg) in 1,2-dichloroethane (approx. 30 ml). After one hour's stirring at RT, sodium triacetoxyborohydride (1.33 g, 6 mmol.) was added and the mixture was stirred for two days at RT. For working up, the mixture was concentrated, the residue was taken up in ethyl acetate (30 ml) and 1M NaOH (25 ml), the clear phases were separated in a separating funnel, the aqueous phase was extracted three times with ethyl acetate (10 ml each time) and the combined extracts were dried and concentrated by evaporation. The residue obtained (1.72 g) was purified by flash chromatography (eluant: MeOH/EtOAc 1:2, then MeOH/EtOAc 1:1 and MeOH/NH3 400:1). A portion (261 mg) of the nonpolar diastereomer (868 mg) was dissolved in 2-butanone (7 ml), and the corresponding dihydrochloride was precipitated with chlorotrimethylsilane (227 μl) (white solid; 224 mg; m.p. 164-169° C.).

reactant | 4-Dimethylamino-4-phenylcyclohexanone | 877 mg | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
reactant | sodium sulfate | 2 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | acetic acid | 4 mmol, 230 μl | C(C)(=O)O | C2H4O2
reactant | rac-6-fluorotryptophan methyl ester | 952 mg | COC([C@@H](N)CC1=CNC2=CC(=CC=C12)F)=O | C12H13FN2O2
reactant | sodium triacetoxyborohydride | 6 mmol, 1.33 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1,2-dichloroethane | approx. 30 ml | ClCCCl | C2H4Cl2
product | 2-(4-Dimethylamino-4-phenyl-cyclohexylamino)-3-(6-fluoro-1H-indol-3-yl)-propionic acid methyl ester dihydrochloride | Cl.Cl.COC(C(CC1=CNC2=CC(=CC=C12)F)NC1CCC(CC1)(C1=CC=CC=C1)N(C)C)=O | InChI=1S/C26H32FN3O2.2ClH/c1-30(2)26(19-7-5-4-6-8-19)13-11-21(12-14-26)29-24(25(31)32-3)15-18-17-28-23-16-20(27)9-10-22(18)23;;/h4-10,16-17,21,24,28-29H,11-15H2,1-3H3;2*1H
